US04175173
(b) 2,2-bis(p-(2-Hydroxy-3-butoxypropyl)phenyl)propane
Butyl glycidyl ether (232.5 g), 2,2-bis(p-hydroxyphenyl)propane (171 g), and benzyltrimethylammonium chloride (4 g) were stirred and heated slowly to 100°. The mixture was kept at 100° for 1 hour, then at 110° for 2 hours, 120° for 1 hour, and 150° for 11/2 hours. The product had an epoxy value of 0.2 equiv./kg.

reactant | Butyl glycidyl ether | 232.5 g | C(C1CO1)OCCCC | C7H14O2
reactant | 2,2-bis(p-hydroxyphenyl)propane | 171 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
catalyst | benzyltrimethylammonium chloride | 4 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 2,2-bis(p-(2-Hydroxy-3-butoxypropyl)phenyl)propane | OC(CC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)CC(COCCCC)O)COCCCC | C29H44O4
